US04460509
To 10 grams of 2-(3α-formyloxy-7-keto-5β-cholan-24-amido)-2-methyl-1-propanol in 300 ml. of acetone was added dropwise, 200 ml. of 0.2N sodium hydroxide over a period of 30 minutes and the mixture was then permitted to stand for 1 hour. One liter of water was added to yield white crystals which were then filtered washed with water, dried and recrystallized from chloroform-acetone to obtain 2-(3α-hydroxy-7-keto-5β-cholan-24-amido)-2-methyl-1-propanol.

reactant | 2-(3α-formyloxy-7-keto-5β-cholan-24-amido)-2-methyl-1-propanol | 10 grams | C(=O)O[C@H]1C[C@H]2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)NC(CO)(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H47NO5
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium hydroxide | 0.2N | [OH-].[Na+]
solvent | water | One liter | O | H2O
product | 2-(3α-hydroxy-7-keto-5β-cholan-24-amido)-2-methyl-1-propanol | O[C@H]1C[C@H]2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)NC(CO)(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C28H47NO4
